US05242945
To a stirring solution of 650 mg (6.5 mmol) of tetronic acid in 20 mL of dimethylformamide is added 1.0 mL (7.17 mmol) of triethylamine and 230 mg (1.88 mmol) of 4-dimethylaminopyridine at 0° C. Next, 1.50 g (7.81 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 2.0 g (7.81 mmol) of palmitic acid are added and the reaction mixture is stirred overnight at room temperature. The reaction is acidified with 1.0N HCl and extracted three times with ethyl acetate. The combined organic layers are washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is recrystallized from pentane to give 2.0 g (91%) of 4-hydroxy-3-[1-oxohexadecyl]-2(5H)-furanone, mp 81°-83° C.

reactant | tetronic acid | 6.5 mmol, 650 mg | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 7.17 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.81 mmol, 1.50 g | Cl.CN(CCCN=C=NCC)C
reactant | palmitic acid | 7.81 mmol, 2.0 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | HCl | 1.0N | Cl | ClH
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 1.88 mmol, 230 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-hydroxy-3-[1-oxohexadecyl]-2(5H)-furanone | 2.0 g, 91% | OC1=C(C(OC1)=O)C(CCCCCCCCCCCCCCC)=O | C20H34O4
